Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Ms ___ / Iodine; Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Venous ulcerations with DVT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presented to the ED ___ complaining of increased pain 
in her LLE at the ulcer site. She's a ___ year old female with 
history ___ venous stasis with open ulcers on her medial 
malleous. She has failed 2 STSG and 1 Apligraft before her 
latest Apligraft 2 weeks ago with Dr. ___. The graft appeared 
well on her follow up visit on ___. However, patient reported 
feeling severe pain after being on her feet all day on ___. 
The pain got worse last night and patient was instructed to come 
to the ED. She stated that she felt as if the dressing was too 
constricted. She endorsed some swelling of her LLE but 
attributed it to being on her feet all day at work. In the ED, 
her outer
dressing was removed and she reported feeling better. She stated 
that she hasn't taken Dicloxacillin due to nausea with emesis 
after taking the medication.  Upon further questions, patient 
also reported having multiple watery bowel movements in the past 
few days. She reported having hx of C. diff in the past. She 
otherwise denied any fever, chills, cp/sob.

 
Past Medical History:
- hypertension
- hypercholesterolemia
- DVTs, ___ years ago (post-partum) and ___, on coumadin for ___ 
years, stopped about ___ years ago, PCP started hypercoagulable 
___ after learning patient d/c coumadin but this was negative
- diverticulosis
- skin graft for unhealed left leg ulcer ___ (followed for ___ 
yr)
- fibroids
- s/p TAH/BSO ___ years ago for bleeding fibroids in the setting 
of anticoagulation
- hepBcAb pos, hepBsAb and Ag neg in ___

 
Social History:
___
Family History:
- HTN in both parents
- mother died age ___ of ESRD (on HD) from HTN
- father died age ___ of lung cancer
- sister died in ___ of leukemia
- no known h/o of hypercoagulable states, DM
- two brothers, two sisters who are healthy
 
Physical Exam:
Vitals: 98.7    HR; 57     BP: 124/90    RR: 20    Spo2: 95%
Gen: NAD, A&Ox3
Chest: CTAB
CV: RRR, S1S2
___: soft, nt/nd
Extrem: b/l ___ skin changes, more on L side.  There are two 
ulcers, the large one about 3x7cm and the smaller one more 
distal about 2x3cm. The Apligraft appeared to be disintergrated. 
There is minimal erythema around the wound edges.
LLE is more swollen compared to RLE, no calf tenderness.
Pulses:
    Fem Pop DP ___
R   p   p   p  d
L   p   p   p  d

 
Pertinent Results:
___ 06:00AM BLOOD WBC-8.2 RBC-3.73* Hgb-11.7* Hct-35.1* 
MCV-94 MCH-31.4 MCHC-33.4 RDW-14.9 Plt ___
___ 06:25AM BLOOD WBC-10.2 RBC-3.93* Hgb-12.2 Hct-37.4 
MCV-95 MCH-31.2 MCHC-32.8 RDW-15.0 Plt ___
___ 01:15PM BLOOD WBC-9.8 RBC-4.65 Hgb-14.6 Hct-42.7 MCV-92 
MCH-31.3 MCHC-34.1 RDW-15.1 Plt ___
___ 01:15PM BLOOD Neuts-63.9 ___ Monos-4.5 Eos-2.7 
Baso-0.8
___ 10:25AM BLOOD ___ PTT-30.6 ___
___ 06:00AM BLOOD Plt ___
___ 06:25AM BLOOD Plt ___
___ 01:15PM BLOOD Plt ___
___ 01:15PM BLOOD ___ PTT-20.0* ___
___ 01:15PM BLOOD ESR-14
___ 06:00AM BLOOD Glucose-80 UreaN-10 Creat-0.7 Na-133 
K-3.9 Cl-106 HCO3-22 AnGap-9
___ 06:25AM BLOOD Glucose-91 UreaN-14 Creat-0.8 Na-140 
K-3.7 Cl-109* HCO3-23 AnGap-12
___ 08:50PM BLOOD Creat-1.1 Na-142 K-3.8 Cl-110*
___ 01:15PM BLOOD Glucose-97 UreaN-15 Creat-1.2* Na-140 
K-2.9* Cl-103 HCO3-24 AnGap-16
___ 06:00AM BLOOD Calcium-8.6 Phos-3.0 Mg-1.6
___ 06:25AM BLOOD Calcium-8.4 Phos-3.6 Mg-1.7
___ 01:15PM BLOOD Calcium-9.4 Phos-3.4 Mg-1.9

___ 5:52 am SWAB      Source: Left leg. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Preliminary): 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 

   ANAEROBIC CULTURE (Preliminary): 

___ ___ F  ___  ___ 
 
Radiology Report BILAT LOWER EXT VEINS Study Date of ___ 
2:55 ___ 
 
  
___ EU   ___ 2:55 ___ 
BILAT LOWER EXT VEINS   Clip # ___   
Reason: LT CALF PAIN ,R/O DVT 
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with left calf pain  
REASON FOR THIS EXAMINATION: 
   ? DVT  

 
 
Wet Read: ___ ___ 5:24 ___ 
1. positive for left DVT, with nonocclusive thrombus seen in the 
mid SFV 
extending to occlusive thrombus in the left popliteal and calf 
veins. 
2. no RLE dvt. 
Wet Read Audit # 1  

 
Final Report 
INDICATION: ___ female with left calf pain, evaluate for 
DVT. 
  
COMPARISON: None. 
  
FINDINGS: Grayscale and color sonographic imaging of the lower 
extremity veins 
was performed. On the left, the common femoral and proximal 
superficial 
femoral veins demonstrate normal compressibility and flow. 
However, there is 
partially occlusive thrombus seen in the mid superficial femoral 
vein, 
extending to occlusive thrombus in the left popliteal vein, with 
a lack of 
compressibility and no flow seen. Additional occlusive thrombus 
is seen in 
the left calf veins. 
  
The right leg was also interrogated, demonstrating normal 
compressibility, 
flow, and augmentation in the common femoral, superficial 
femoral, popliteal, 
and calf veins. 
  
IMPRESSION: 
1. Left leg DVT in the mid superficial femoral (partially 
occlusive), and 
popliteal and calf veins (fully occlusive). 
  
2. No right lower extremity DVT. 
  
  
The study and the report were reviewed by the staff radiologist. 

 

 
Brief Hospital Course:
___ The patient was admitted from the ED with Left ___ DVT 
with chronic venous ulcerations. She was admitted to the 
Vascular service. Pain management overnight with Percocet and 
Dilaudid. DVT confirmed with venous duplex (see report).

The decision was made by Dr. ___ anticoagulation. The 
patient was started on a Lovenox/Coumadin bridge. Her PCP was 
contacted and agreed to manage the patient's INR during 
lovenox/coumadin bridge and refer to ___ for additional 
management. Lovenox teaching was done by nursing, the patient 
has a good understanding of administration. She was discharged 
on ___ with ___ services for wound care and ___ checks. 
She will follow up with Dr. ___ week with a duplex. She 
was discharged on a 10 day course of Augmentin. 
 
Medications on Admission:
amlodipine 5 qd, atenolol 50 bid, gabapentin 300 tid, lisinopril 
40 qd, ibuprofen prn  
 
Discharge Medications:
1. enoxaparin 80 mg/0.8 mL Syringe Sig: One (1)  Subcutaneous 
Q12H (every 12 hours).
Disp:*10 * Refills:*1*
2. amoxicillin-pot clavulanate 500-125 mg Tablet Sig: One (1) 
Tablet PO Q8H (every 8 hours) for 10 days.
Disp:*30 Tablet(s)* Refills:*0*
3. warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___: Call PCP ___. ___ for Refills.
Disp:*30 Tablet(s)* Refills:*2*
4. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever/pain.  
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.  
7. atenolol 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. Percocet ___ mg Tablet Sig: ___ Tablets PO every four (4) 
hours.
Disp:*40 Tablet(s)* Refills:*0*
10. Outpatient Lab Work
___ to draw labs (INR) q2 days and fax to PCP @ ___. 
(PCP: ___. ___ or ___ to schedule 
PCP ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left DVT 
Venous ulcers

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Uses Cane

 
Discharge Instructions:
You were admitted to ___ for your venous stasis ulcers and 
were found to have a blood clot in your left leg. The decision 
was made to start you on a blood thinning medication (Coumadin). 
You will be discharged today with Lovenox until your INR level 
is greater then 2. You should take coumadin everyday. Your PCP 
___ ___ or ___ will be 
following your blood levels. 
 
Followup Instructions:
___